* auto-generated transient circuit
V_ps1 A7 0 DC 6
V_ps2 0 E3 DC 6
C_cap1 E3 C5 10u
Vctrl_btn1 ctrl_btn1 0 PWL(0 0 4.000000 0)
S_btn1 C5 A7 ctrl_btn1 0 SW_BTN
R_r1 C5 C3 1000
D_led1 C3 E3 LEDMODEL_RED
R_GND_C3 C3 0 1e12
R_GND_C5 C5 0 1e12
R_GND_ctrl_btn1 ctrl_btn1 0 1e12
R_GND_A7 A7 0 1e12
R_GND_E3 E3 0 1e12
.model DIODE_MODEL    D (IS=1e-10 N=1.0  RS=1  BV=100)
.model LEDMODEL_RED   D (IS=1e-30 N=2.5  RS=3  BV=5)
.model LEDMODEL_GREEN D (IS=1e-40 N=3.0  RS=3  BV=5)
.model LEDMODEL_BLUE  D (IS=1e-50 N=3.5  RS=3  BV=5)
.model NPN_MODEL NPN (IS=1e-14 BF=150 VAF=100 IKF=0.3 RC=0.1)
.model PNP_MODEL PNP (IS=1e-14 BF=150 VAF=100 IKF=0.3 RC=0.1)
.model NPN_DARLINGTON NPN (IS=1e-14 BF=5000 VAF=100 IKF=0.3 RC=0.1)
.model PNP_DARLINGTON PNP (IS=1e-14 BF=5000 VAF=100 IKF=0.3 RC=0.1)
.model SW_BTN SW(Ron=1e-5 Roff=1e12 Vt=2.5 Vh=-0.5)
* initial conditions from charged DC state
.ic v(E3)=-6.000000 v(C5)=6.000000

.control
tran 0.005000 4.000000 uic
wrdata tran_out.txt @d_led1[id] v(C3,E3)
quit
.endc
.end
